US06964977B2
Preparation of 5-{[(Z)-(2-oxo-1,2-dihydro-3H-indol-3-ylidene)methyl]amino}-1,3-dihydro-2H-benzimidazol-2-one
A solution of 161 mg (1.00 mMol) of 3-(hydroxymethylene)-1,3-dihydro-2H-indol-2-one, 149 mg (1.00 mMol) of 5-aminobenzimidazolone, and 5 ml of ethanol was heated at 55° C. for 1.5 hr. The resulting solid was isolated by filtration and recrystallized from DMSO/methanol to yield 150 mg (51%) of a yellow solid, 1H NMR (DMSO-d6): δ6.80 (d, J=7.7 Hz, 1H), 6.85-6.98 (m, 4H), 7.00 (s, 1H), 7.54 (d, J=7.4 Hz, 1H), 8.50 (d, J=12.7 Hz, 1H), 10.39 (s, 1H), 10.56 (s, 1H), 10.72 (d, J=12.7 Hz, 1H), 10.74 (s, 1H); APCI-MS m/z291 (M−H)−.

reactant | 3-(hydroxymethylene)-1,3-dihydro-2H-indol-2-one | 1.00 mMol, 161 mg | OC=C1C(NC2=CC=CC=C12)=O | C9H7NO2
reactant | 5-aminobenzimidazolone | 1.00 mMol, 149 mg | NC1=CC=2C(=NC(N2)=O)C=C1 | C7H5N3O
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 5-{[(Z)-(2-oxo-1,2-dihydro-3H-indol-3-ylidene)methyl]amino}-1,3-dihydro-2H-benzimidazol-2-one | 150 mg, 51% | O=C\1NC2=CC=CC=C2/C1=C/NC1=CC2=C(NC(N2)=O)C=C1 | C16H12N4O2
